US05599806
17β-[2-(Amidino)]hydrazinomethyl-5β-androstane-3β,14β-diol (I-aa)
A mixture of 0.50 g of (E)-17β-guanidinoiminomethyl-5β-androstane-3β,14β-diol hydrochloride (prepared following the procedure described in DE 4,227,626 for similar compounds) and 0.40 g of platinum dioxide in 25 ml of ethanol was hydrogenated at 4.2 atm and room temperature for 8 hrs under shaking. The mixture was filtered and the solution evaporated under reduced pressure. The residue was cristallized from ethanol/ethyl acetate to give 0.30 g of the title compound (I-aa) as a white solid, hydrochloride.

reactant | (E)-17β-guanidinoiminomethyl-5β-androstane-3β,14β-diol hydrochloride | 0.50 g | Cl.N(C(=N)N)\N=C\[C@@H]1[C@]2(C)[C@](CC1)([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | platinum dioxide | 0.40 g | [Pt](=O)=O
product | 17β-[2-(Amidino)]hydrazinomethyl-5β-androstane-3β,14β-diol | 0.30 g | C(N)(=N)NNC[C@@H]1[C@]2(C)[C@](CC1)([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O | C21H38N4O2
